US07105547B2
Preparation of {3-[3-fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic Acid Methyl Ester
TFA (1.5 mL) is added to a solution of {3-[3-fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester (300 mg, 0.74 mmol) in dichloroethane (6.0 mL). This solution is stirred for 1.5 h. Removed solvent under vacuum, and the residue is dissolved in MeCN (3.0 mL). TEA (0.41 mL, 3 mmol) is added followed by methyl chloroformate (98 mg, 1 mmol). The mixture is stirred at r.t. for 16 h. Solvent is removed under vacuum, and the residue is purified by silica gel column chromatography (eluent: EtOAc) to afford the product as a yellow solid. Yield 100 mg (37%). MS (m/z): 364 [M+1]+. 1H NMR (300 MHz, DMSO-d6) δ7.62–7.30 (m, 4H), 4.98 (dd, J=7.7 Hz, 3.0 Hz, 1H), 4.80–4.65 (m, 1H), 4.11 (dd, J=6.86 Hz, 2H), 3.79–3.74 (m, 1H), 3.53 (s, 3H), 3.40–3.30 (m, 2H), 2.49–2.44 (m, 2H).

reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | {3-[3-fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic acid tert-butyl ester | 0.74 mmol, 300 mg | C(C)(C)(C)OC(NCC1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCC(C=C1)=O)F)=O | C20H24FN3O5
reactant | methyl chloroformate | 1 mmol, 98 mg | ClC(=O)OC | C2H3ClO2
solvent | dichloroethane | 6.0 mL | ClC(C)Cl | C2H4Cl2
solvent | MeCN | 3.0 mL | CC#N | C2H3N
product | {3-[3-fluoro-4-(4-oxo-3,4-dihydro-2H-pyridin-1-yl)-phenyl]-2-oxo-oxazolidin-5-ylmethyl}-carbamic Acid Methyl Ester | COC(NCC1CN(C(O1)=O)C1=CC(=C(C=C1)N1CCC(C=C1)=O)F)=O | C17H18FN3O5
